* C:\Users\ariel\informesTC\TP7\Simulacion\KHN_test\FiltroHP_N10_MC.asc
C1 N014 N004 5.6n
C2 N004 0 5.6n
R1 N014 0 {mc(1.79k,tola)}
R3 N005 N022 {mc(1.449k,tola)}
R4 0 N022 {mc(1k,tola)}
R6 N004 N005 {mc(1.79k,tola)}
C3 N023 N006 3.3n
R7 N023 0 {mc(2.47k,tola)}
R9 N007 N027 {mc(1.74k,tola)}
R10 0 N027 {mc(1.5k,tola)}
R12 N006 N007 {mc(2.47k,tola)}
C5 N024 N008 3.3n
C6 N008 N007 3.3n
R8 N024 0 {mc(1.86k,tola)}
R11 N009 N028 {mc(6.64k,tola)}
R13 0 N028 {mc(10k,tola)}
R14 N008 N009 {mc(1.86k,tola)}
C13 N034 N020 2.2n
C14 N020 N009 2.2n
R23 N034 0 {mc(2.12k,tola)}
R24 N021 N036 {mc(1.12k,tola)}
R25 0 N036 {mc(10k,tola)}
R26 N020 N021 {mc(2.12k,tola)}
V1 N029 0 AC 1
R19 VHP1 N001 15k
R20 N030 N029 {mc(1k,tola)}
R21 N015 VHP1 {mc(12.22k,tola)}
C15 N016 N015 1n
C16 vout N012 1n
R22 N012 N016 {mc(12.22k,tola)}
R27 N016 N030 13.5k
R28 vout N001 15k
R15 VHP2 N002 10k
R16 N033 N017 {mc(2.2k,tola)}
R29 N018 VHP2 {mc(2.47k,tola)}
C7 N019 N018 4.7n
C8 N003 N013 4.7n
R30 N013 N019 {mc(2.47k,tola)}
R31 N019 N033 12.6k
R32 N003 N002 10k
XU5 N030 N001 +V -V VHP1 TL082
XU12 0 N015 +V -V N016 TL082
XU18 0 N012 +V -V vout TL082
V2 +V 0 12
V3 0 -V 12
XU13 N032 N017 +V -V N017 TL082
XU4 N033 N002 +V -V VHP2 TL082
XU6 0 N018 +V -V N019 TL082
XU14 0 N013 +V -V N003 TL082
XU7 N025 N010 +V -V N010 TL082
XU15 N014 N022 +V -V N005 TL082
XU1 N026 N006 +V -V N006 TL082
XU2 N023 N027 +V -V NC_01 TL082
XU3 N024 N028 +V -V NC_02 TL082
XU10 N034 N036 +V -V NC_03 TL082
XU11 N035 N011 +V -V N011 TL082
R2 N035 N021 21.2k
R5 0 N035 10k
R18 0 N032 47k
R33 N025 0 47k
R34 0 N025 56k
R35 N026 N005 15k
R36 0 N026 10k
R17 N032 0 47k
V4 vin 0 SINE(0 0.1 40K)
* Circuito 3 - Sallen Key Q = 1.96
* Circuito 4 - Sallen Key Q = 1.19
* Circuito 5 - Sallen Key Q = 0.76
* Circuito 1V2 - KHN Q = 11.96
* Circuito 2 - KHN Q = 3.65
.ac dec 1000 100 100000000
.lib TL082.sub
* Circuito 6 - Sallen Key Q = 0.53
.param tola = 0
* Preset
* Preset
* Preset
* Preset
* Usar combinacion S + //
* Usar combinacion S + //
* 14.46
.backanno
.end
